US07875600B2
4-Chloro-N-methyl-6-(5-methylfuran-2-yl)pyrimidine-2-amine
A solution of 2,4-dichloro-6-(5-methylfuran-2-yl)pyrimidine (0.70 g, 3.07 mmol) in MeOH (5 mL) was treated with 2-M methylamine in EtOH (2 mL, 4 mmol), heated at 80° C. for 30 min, cooled, concentrated in vacuo and purified by chromatography [SiO2; hexane:EtOAc (100:0-90:10)] to give the title compound (0.17 g, 22%) as a white solid; NMR δH (400 MHz, CD3OD) 2.38 (3H, s), 2.93 (3H, s), 6.22-6.23 (1H, m), 6.83 (1H, s) and 7.12-7.13 (1H, m); M/Z 224, 226 (M+H)+

reactant | 2,4-dichloro-6-(5-methylfuran-2-yl)pyrimidine | 3.07 mmol, 0.70 g | ClC1=NC(=CC(=N1)Cl)C=1OC(=CC1)C | C9H6Cl2N2O
reactant | methylamine | CN | CH5N
reactant | EtOH | 4 mmol, 2 mL | CCO | C2H6O
solvent | MeOH | 5 mL | CO | CH4O
product | 4-Chloro-N-methyl-6-(5-methylfuran-2-yl)pyrimidine-2-amine | 0.17 g, 22% | ClC1=NC(=NC(=C1)C=1OC(=CC1)C)NC | C10H10ClN3O
